US07582772B2
A solution of N-t-butoxycarbonyl-N-{4-[2-(benzhydryl-amino)-5-chloro-phenyl]-but-3-ynyl}-C-(3,4-dichlorophenyl)-methanesulfonamide (400 g, 0.585 mol) and N,N-dimethylacetamide (800 mL) was added slowly over 1 h to a hot (150° C.), stirred mixture of copper (I) iodide (12.2 g, 0.064 mol) and N,N-dimethylacetamide (740 mL). The reaction mixture was stirred and maintained at 150° C. for an additional 2 h. The reaction mixture was cooled to 40° C. The mixture was filtered through a celite pad and the pad was washed with IPA (2×100 mL). An additional charge of IPA (1400 mL) was added to the filtrate. The mixture was stirred and warmed to 60° C. Water (2.2 L) was added to the mixture over 30 m, maintaining an internal temperature of 55-60° C. The mixture was held at 60° C. for 30 m, then it was cooled to 5° C. The solid product was collected by filtration and the cake was washed with cold IPA/water (3/2 v/v, 2×200 mL). The solid was vacuum dried at <50° C. to give N-[2-(1-benzhydryl-5-chloro-1 H-indol-2-yl)-ethyl]-C-(3,4-dichloro-phenyl)-methanesulfonamide (338 g, 99%) with 98% purity (as determined by HPLC).

reactant | N-t-butoxycarbonyl-N-{4-[2-(benzhydryl-amino)-5-chloro-phenyl]-but-3-ynyl}-C-(3,4-dichlorophenyl)-methanesulfonamide | 0.585 mol, 400 g | C(C)(C)(C)OC(=O)N(S(=O)(=O)CC1=CC(=C(C=C1)Cl)Cl)CCC#CC1=C(C=CC(=C1)Cl)NC(C1=CC=CC=C1)C1=CC=CC=C1 | C35H33Cl3N2O4S
catalyst | copper (I) iodide | 0.064 mol, 12.2 g | [Cu]I
solvent | N,N-dimethylacetamide | 740 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 800 mL | CN(C(C)=O)C | C4H9NO
product | N-[2-(1-benzhydryl-5-chloro-1 H-indol-2-yl)-ethyl]-C-(3,4-dichloro-phenyl)-methanesulfonamide | 338 g, 99% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=CC2=CC(=CC=C12)Cl)CCNS(=O)(=O)CC1=CC(=C(C=C1)Cl)Cl | C30H25Cl3N2O2S
